US05643872
Diasteromeric 3-phenylcysteine is prepared according to the method described by Nagai et al., in Peptide Chemistry, edited by, M. Ueki, Proceedings of the 26th Symposium on Peptide Chemistry, Tokyo, Oct. 24-26, 1988, Protein Research Foundation, Minoh-shi, Osaka, pages 247-52. Using standard methods, this material is converted to S-(4-methoxyphenyl)-N-(t-butoxycarbonyl)-3-phenylcysteine. The protected peptide-resin intermediate, Mba(SEt)-Arg(Tos)-Gly-Asp(O-Bzl)-Pcs(4-MBzl)-MBHA, is synthesized by the solid-phase method on 4-methylbenzhydrylamine resin. All of the amino acids are protected by t-butyloxycarbonyl on the amino group, and are coupled sequentially using N,N-dicyclohexylcarbodiimide/1-hydroxybenzotriazole (DCC/HOBt) as set forth in Example 1. After coupling of the last amino acid, the peptide is cleaved from the resin with deprotection of the side chain protecting groups using anhydrous HF (20 mL) in the presence of anisole (2.0 mL) at 0° C. for 30 min. After the evaporation of HF in vacuo, the residue is washed with anhydrous ether, the crude peptide is extracted with 0.2M acetic acid, and the extract is diluted to 2 L with deionized water. The pH of the aqueous solution is adjusted to 7-8 with concentrated ammonium hydroxide and Nitrogen is bubbled through the solution. After 24-48 hr. The reaction solution is lyophilized to yield a crude product. Chromatography (medium pressure reversed-phase column, acetonitrile/H2O-0.1% TFA) provides the titled product.

reactant | S-(4-methoxyphenyl)-N-(t-butoxycarbonyl)-3-phenylcysteine | COC1=CC=C(C=C1)SC([C@H](NC(=O)OC(C)(C)C)C(=O)O)C1=CC=CC=C1 | C21H25NO5S
reactant | anisole | 2.0 mL | C1(=CC=CC=C1)OC | C7H8O
product | 3-phenylcysteine | C1(=CC=CC=C1)C([C@H](N)C(=O)O)S | C9H11NO2S
